US09290517B2
Step C: (3R,3aR,6R,6aR)-6-[[6-chloro-5-(5-methylsulfonyl-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
A mixture of palladium acetate (2.5 mg, 0.011 mmol) and DPPP (1.6 mg, 0.0039 mmol) in ethanol (0.1 mL) was stirred for 20 minutes under nitrogen. The resulting dark suspension was added to a mixture of sodium borohydride (18 mg, 0.476 mmol) and [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(5-methylsulfonyl-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane (50.6 mg, 0.079 mmol) in ethanol (0.9 ml). The reaction was stirred at room temperature under a nitrogen atmosphere for 2.5 hours. The reaction mixture was then purified directly on preparative silica plates (1×1000 u developed with 5% MeOH/DCM). The resulting solid was dissolved in 1M TBAF in THF (0.1 mL, 0.1 mmol) and stirred at room temperature for 1 hour. The mixture was diluted with ethyl acetate (20 mL) and washed with water (10 mL). The organic layer was washed with brine (1×5 mL), dried with MgSO4, filtered and the solvent was removed under vacuum. The resulting solid was dissolved in methanol (1.0 mL) and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient. The desired fractions were lyophilized to give the title compound as a solid. LC-MS: calculated for C1-8H19ClN6O6S 482.08 observed m/e: 483.12 (M+H)+ (Rt 0.97/2 min); 1H NMR δ (ppm) (CD3OD): 7.92 (s, 1H), 7.86 (s, 1H), 5.56 (m, 1H), 4.61 (s, 4H), 4.47 (dd, 1H), 4.29 (m, 1H), 4.18-4.10 (m, 2H), 3.90 (dd, 1H), 3.60 (dd, 1H) and 3.02 (s, 3H).

reactant | DPPP | 0.0039 mmol, 1.6 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | sodium borohydride | 0.476 mmol, 18 mg | [BH4-].[Na+]
reactant | [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(5-methylsulfonyl-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | 0.079 mmol, 50.6 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)N2N=C1C(=C2)CN(C1)S(=O)(=O)C)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[Si](C)(C)C(C)(C)C | C27H37ClN6O6SSi
reactant | THF | 0.1 mmol, 0.1 mL | C1CCOC1 | C4H8O
solvent | ethanol | 0.1 mL | C(C)O | C2H6O
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
solvent | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.011 mmol, 2.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3R,3aR,6R,6aR)-6-[[6-chloro-5-(5-methylsulfonyl-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1N1N=C3C(=C1)CN(C3)S(=O)(=O)C)N=C(N2)O[C@@H]2CO[C@H]3[C@@H]2OC[C@H]3O | C18H19ClN6O6S
